US08372307B2
(E)-3-(4′-Propyl-bicyclohexyl-4-yl)acrylic acid ethyl ester is hydrogenated in THF in the presence of palladium on charcoal. After 1 eq. of hydrogen has been consumed the catalyst is filtered off, the solvent is evaporated and the residue is filtered through silica yielding 3-(4′-propyl-bicyclohexyl-4-yl)-propionic acid ethyl ester as a colourless oil.

reactant | (E)-3-(4′-Propyl-bicyclohexyl-4-yl)acrylic acid ethyl ester | C(C)OC(\C=C\C1CCC(CC1)C1CCC(CC1)CCC)=O | C20H34O2
reactant | hydrogen | 1 eq. | [H][H] | H2
solvent | THF | C1CCOC1 | C4H8O
catalyst | palladium on charcoal | [Pd] | Pd
product | 3-(4′-propyl-bicyclohexyl-4-yl)-propionic acid ethyl ester | C(C)OC(CCC1CCC(CC1)C1CCC(CC1)CCC)=O | C20H36O2
